US08664257B2
Step 1: 4-Fluoro-1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylic acid methyl ester
200 mg (0.8 mmol) of 1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylic acid methyl ester were dissolved in 2 ml of acetonitrile and 745 mg (1.99 mmol) of 1-chloro-methyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) (Selectfluor®) were added. The mixture was stirred overnight. Then, irrespective of the incomplete reaction, diethyl ether, water and 2 N hydrochloric acid were added, the organic phase was separated, the solvent evaporated and the residue subjected to preparative HPLC. 70 mg (33%) of the title compound were obtained.

reactant | 1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylic acid methyl ester | 0.8 mmol, 200 mg | COC(=O)C1=NN(C(=C1)OC)C1=C(C=CC=C1)F | C12H11FN2O3
reactant | 1-chloro-methyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | 1.99 mmol, 745 mg | F[B-](F)(F)F.F[B-](F)(F)F.Cl[N+]12C(C[N+](CC1)(CC2)F)C
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-Fluoro-1-(2-fluoro-phenyl)-5-methoxy-1H-pyrazole-3-carboxylic acid methyl ester | 70 mg, 33% | COC(=O)C1=NN(C(=C1F)OC)C1=C(C=CC=C1)F | C12H10F2N2O3
